US04898694
Diisopropyl amine (1.165 g, 11.5 mmol) was dissolved in dry tetrahydrofuran (30 mL) at -78° C. under N2. n-Butyl lithium (4.44 mL of a 2.6 M solution in hexane, 11.5 mmol) was added via syringe and the solution warmed to -23° C. (CO2, CCl4) for 0.25 h. 3β-Methylandrost-5-en-17-one (3.0 g, 10.4 mmol) in dry tetrahydrofuran (30 mL) was added via syringe and the solution stirred for 0.25 h. Methyl iodide (7.0 g, 49.33 mmol) in dry tetrahydrofuran (30 mL) was added dropwise and the mixture stirred at room temperature for 1.5 h. The solution was quenched with saturated ammonium chloride and the organic layer separated, dried over magnesium sulfate, filtered, and evaporated. The residual solid was chromatographed on flash silica gel (120 g) and eluted with 1/99 (v/v) ether hexane to give 3β, 16α-dimethylandrost-5-en-17-one (2.32 g, 74%). mp 109°-110° C. (recrystallized from methanol); NMR (CDCl3) δ5.29 (br s, J=5 Hz, 1H, H-6), 2.52 (m, 1-H, H-16), 1.07 (d J=8 Hz, 3H, C-16 Me), 0.99 (s, 3H, C-19 Me), 0.91 (s, 3H, C-18 Me); IR (KBr) 2900, 1730, 1450, 1430, 1370; MS 300 (M+,100), 285(62), 282(2), 272(12), 267(17), 229(20), 217(30), 159(17); Anal. Calcd for C21H32O: C, 83.93; H, 10.73. Found: C, 83.79; H, 10.52.

reactant | Diisopropyl amine | 11.5 mmol, 1.165 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | CO2 | C(=O)=O | CO2
reactant | 3β-Methylandrost-5-en-17-one | 10.4 mmol, 3.0 g | C[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C20H30O
reactant | Methyl iodide | 49.33 mmol, 7.0 g | CI | CH3I
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3β, 16α-dimethylandrost-5-en-17-one | 2.32 g, 74% | C[C@@H]1CC2=CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C | C21H32O
